US05607928
To a solution of 6-hydroxy-1-indanone (2 g; 13.5 mmol) and pyridine (1.6 ml; 20.2 mmol) in CH2Cl2, was added, dropwise at 60° C. and under argon, triflic anhydride (2.7 ml; 16.1 mmol). After 15 minutes the solution was stirred at 0° C. for one hour. More CH2Cl2 was added and the solution washed with a saturated aqueous solution of NaHCO3 and then a saturated aqueous solution of NaCl. The organic phase was dried over MgSO4, filtered and evaporated. The residue was purified by flash chromatography on silica gel, eluting with petroleum ether/ethyl acetate (8/2) to give 6-trifluormethanesulphonyl1-indanone as a white solid (3.3 g; 89%).

reactant | 6-hydroxy-1-indanone | 13.5 mmol, 2 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
reactant | pyridine | 20.2 mmol, 1.6 ml | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 16.1 mmol, 2.7 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-trifluormethanesulphonyl1-indanone | FC(S(=O)(=O)C1=CC=C2CCC(C2=C1)=O)(F)F | C10H7F3O3S
